US04680391
To a solution of 1.4 g of 4-carboethoxy-3-methoxy-1-(p-methoxyphenyl)azetidin-2-one in 50 ml acetonitrile at 0° was added a solution of 8.23 g of cerric ammonium nitrate in 50 H2O over 3 minutes. After stirring at 0° for 1 hour the solution was poured into 200 ml of 10% sodium sulfite and extracted with 3×75 ml of ethyl acetate. The combined organic extracts were washed with 10% sodium sulfite and saturated sodium chloride solutions and dried over sodium sulfate. Filtration and evaporation gave an amber oil which was recrystallized from methylene chloride/hexane to give 700 mg of 4-carboethoxy-3-methoxyazetidine-2-one; m.p. 91°-92°.

reactant | 4-carboethoxy-3-methoxy-1-(p-methoxyphenyl)azetidin-2-one | 1.4 g | C(=O)(OCC)C1C(C(N1C1=CC=C(C=C1)OC)=O)OC | C14H17NO5
reactant | ammonium nitrate | 8.23 g | [N+](=O)([O-])[O-].[NH4+]
reactant | H2O | O | H2O
reactant | sodium sulfite | 200 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-carboethoxy-3-methoxyazetidine-2-one | 700 mg | C(=O)(OCC)C1C(C(N1)=O)OC | C7H11NO4
